US05744638
51.4 g (0.25 mol) of 2-bromo-5-chlorotoluene, 25 ml of dichloroethane and 1.5 g of iron powder are introduced into a round-bottomed flask. 40 g (0.25 mol) of bromine are added dropwise at 38°-40° C. with stirring, hydrogen bromide being evolved. The product precipitates out during the addition. The suspension is maintained by adding a further 35 ml of dichloromethane with vigorous agitation. Stirring is continued for 30 minutes after addition of the bromine. The crystal slurry is taken intosolution at room temperature using 20 ml of dichloromethane and the iron powder is filtered off. The organic phase is concentrated by evaporation in a Rotavapor.58 g of 5-chloro-2,4-dibromotoluene is obtained, corresponding to 81.6% of theory relative to 2-bromo-5-chlorotoluene, purity (from gas chromatography): 91%, melting range 91°-95°C.

reactant | 2-bromo-5-chlorotoluene | 0.25 mol, 51.4 g | BrC1=C(C=C(C=C1)Cl)C | C7H6BrCl
reactant | dichloroethane | 25 ml | ClC(C)Cl | C2H4Cl2
reactant | bromine | 0.25 mol, 40 g | BrBr | Br2
reactant | hydrogen bromide | Br | BrH
catalyst | iron | 1.5 g | [Fe] | Fe
product | 5-chloro-2,4-dibromotoluene | 58 g | ClC=1C(=CC(=C(C1)C)Br)Br | C7H5Br2Cl
